US05192642
Bis(cyclopentadienyl)bis[2,6-difluoro-3-(isobutyloxycarbonyloxy)phenyl]titanium
8.7 g (0.020 mol) of bis(cyclopentadienyl)bis(2,6-difluoro-3-hydroxyphenyl)titanium, 3.8 g (0.048 mol) of pyridine and a small spatula tip of 2-dimethylaminopyridine as catalyst are dissolved in 20 ml of dimethylformamide and 30 ml of toluene in a 100 ml sulfation flask under nitrogen. 6.6 g (0.048 mol) of isobutyl chloroformate are added dropwise to this dark-red solution at room temperature over the course of 10 minutes. The reaction mixture is stirred overnight at room temperature until the educt no longer appears in the thin-layer chromatogram. The suspension is poured into 100 ml of ethyl acetate and 100 ml of water, and the mixture is stirred and filtered through Hyflo. The two phases of the filtrate are separated from one another. The organic phase is dried using magnesium sulfate, filtered and evaporated in a vacuum rotary evaporator at 20 mbar and a bath temperature of 40° C. A dark-red oil is obtained and is purified by flash chromatography using hexane/ethyl acetate (3:1) as solvent. 6.6 g (52% of theory) of an orange-red glassy resin are obtained.

reactant | bis(cyclopentadienyl)bis(2,6-difluoro-3-hydroxyphenyl)titanium | 0.020 mol, 8.7 g | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)O)F)(C1=C(C(=CC=C1F)O)F)C1C=CC=C1
reactant | pyridine | 0.048 mol, 3.8 g | N1=CC=CC=C1 | C5H5N
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | isobutyl chloroformate | 0.048 mol, 6.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | 2-dimethylaminopyridine | CN(C1=NC=CC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | Bis(cyclopentadienyl)bis[2,6-difluoro-3-(isobutyloxycarbonyloxy)phenyl]titanium | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)OC(=O)OCC(C)C)F)(C1=C(C(=CC=C1F)OC(=O)OCC(C)C)F)C1C=CC=C1 | InChI=1S/2C11H11F2O3.2C5H5.Ti/c2*1-7(2)6-15-11(14)16-10-4-3-8(12)5-9(10)13;2*1-2-4-5-3-1;/h2*3-4,7H,6H2,1-2H3;2*1-5H;
